US08236828B2
3-Amino-4-cyano-N-[2,6-dimethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-benzamide (6 g, 15.3 mmol) (Example I4) was dissolved in a mixture of 1,2-dimethoxyethane (22 ml) and tetrahydrofuran (22 ml) in a microwave vial. Then, at 0° C. under an argon atmosphere, 2-bromo-3,3,3-trifluoro-propene (3.20 ml, 30.6 mmol), bis(triphenylphosphine) palladium(II) dichloride (PdCl2(PPh3)2) (0.32 g, 0.46 mmol) and triphenylphosphine (0.6 g, 2.29 mmol) were added. Finally, an aqueous solution of sodium hydroxide (2M) (30 ml) was added at 0° C. under an argon atmosphere. The vial was sealed and heated to 130° C. for 10 minutes in a microwave oven. The reaction mixture was allowed to cool to ambient temperature and concentrated. The residue was suspended in ethyl acetate (500 ml) and filtered through a plug of Celite®. The filtrate was washed twice with water (500 ml). The aqueous phases were extracted with ethyl acetate (500 ml). The combined organic phases were dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (eluent: cyclohexane/ethyl acetate 2:1) to give 3-amino-4-cyano-N-[2,6-dimethyl-4-(1-trifluoromethyl-vinyl)-phenyl]-benzamide (4.47 g, 81% yield) which was used without further purification. LC/MS (Method A): 360 (MH+); RT: 1.82.

reactant | 3-Amino-4-cyano-N-[2,6-dimethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-benzamide | 15.3 mmol, 6 g | NC=1C=C(C(=O)NC2=C(C=C(C=C2C)B2OC(C(O2)(C)C)(C)C)C)C=CC1C#N | C22H26BN3O3
reactant | 2-bromo-3,3,3-trifluoro-propene | 30.6 mmol, 3.20 ml | BrC(=C)C(F)(F)F | C3H2BrF3
reactant | triphenylphosphine | 2.29 mmol, 0.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium hydroxide | 2M, 30 ml | [OH-].[Na+]
solvent | 1,2-dimethoxyethane | 22 ml | COCCOC | C4H10O2
solvent | tetrahydrofuran | 22 ml | O1CCCC1 | C4H8O
catalyst | bis(triphenylphosphine) palladium(II) dichloride | 0.46 mmol, 0.32 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-amino-4-cyano-N-[2,6-dimethyl-4-(1-trifluoromethyl-vinyl)-phenyl]-benzamide | 4.47 g, 81% yield | NC=1C=C(C(=O)NC2=C(C=C(C=C2C)C(=C)C(F)(F)F)C)C=CC1C#N | C19H16F3N3O
